US08377927B2
(±)-Trans-3-(5,6-dihydro-4H-pyrrolo[3,2,1-ij]quinolin-1-yl)-4(1H-indol-3-yl)pyrrolidine-2,5-dione may be prepared by reacting 1-allyl-7-bromo-1H-indole with (COCl)2 (oxalyl chloride) and sodium methoxide in a polar aprotic solvent such as dichloromethane to yield (1-allyl-7-bromo-1H-indol-3-yl)-oxo-acetic acid methyl ester, which is subsequently reacted with 2-(1H-indol-3-yl)-acetamide and tBuOK (potassium tert-butoxide) in THF to yield 3-(1-allyl-7-bromo-1H-indol-3-O-4-(1H-indol-3-yl)-pyrrole-2,5-dione. Reduction of the 3-(1-allyl-7-bromo-1H-indol-3-yl)-4-(1H-indol-3-yl)-pyrrole-2,5-dione by Mg in refluxing methanol, as in Example 2 procedure C, yields 3-(1-allyl-7-bromo-1H-indol-3-O-4-(1H-indol-3-O-pyrrolidine-2,5-dione, which is treated with 9-BBN (9-borabicyclo[3.3.1]nonane) and Pd(PPh3)4 (tetrakis(triphenylphosphine)palladium) to yield (±)-trans-3-(5,6-dihydro-4H-pyrrolo[3,2,1-ij]quinolin-1-yl)-4(1H-indol-3-yl)pyrrolidine-2,5-dione.

reactant | 3-(1-allyl-7-bromo-1H-indol-3-yl)-4-(1H-indol-3-yl)-pyrrole-2,5-dione | C(C=C)N1C=C(C2=CC=CC(=C12)Br)C=1C(NC(C1C1=CNC2=CC=CC=C12)=O)=O | C23H16BrN3O2
solvent | methanol | CO | CH4O
product | 1-allyl-7-bromo-1H-indol | C(C=C)N1C=CC2=CC=CC(=C12)Br | C11H10BrN
